US07358248B2
3-(4′-Bromobiphenyl-4-ylmethylsulfanyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester
A mixture of 4′-Bromo-4-bromomethyl-biphenyl, 9.1 g (27.9 mmol), N-(tert-Butoxy-carbonyl)-L-cysteine methyl ester, 5.74 mL (27.9 mmol), cesium carbonate, 18.2 g (55.8 mmol), and 100 mL of N,N-dimethylformamide was stirred at room temperature for 4 h. The mixture was diluted with 200 mL of water and extracted with 2×200 mL of ethyl acetate. The organic layer was washed with 2×200 mL portions of aq. LiCl, sat. aq. NaHCO3, sat. aq. NaCl, and dried (MgSO4). After the solution was concentrated, the residue was purified through a short plug of silica gel (eluted with 20% EtOAc-Heptane) to afford the desired product in 8.8 g (66%) as a white solid. 1H NMR (CDCl3) 7.55 (d, 2H, J=9.3 Hz), 7.50 (d, 2H, J=9.0 Hz), 7.43 (d, 2H, J=9.3 Hz), 7.37 (d, 2H, J=9.0 Hz), 5.31 (d, 1H, J=9.0 Hz), 4.62-4.51 (m, 1H), 3.76 (s, 5H), 2.93 (dd, 1H, 15.7, 5.7 Hz), 2.84 (dd, 1H, 15.7, 6.3 Hz), 1.47 (s, 9H).

reactant | 4′-Bromo-4-bromomethyl-biphenyl | BrC1=CC=C(C=C1)C1=CC=C(C=C1)CBr | C13H10Br2
reactant | N-(tert-Butoxy-carbonyl)-L-cysteine methyl ester | COC([C@@H](NC(=O)OC(C)(C)C)CS)=O | C9H17NO4S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | water | 200 mL | O | H2O
product | 3-(4′-Bromobiphenyl-4-ylmethylsulfanyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester | COC(C(CSCC1=CC=C(C=C1)C1=CC=C(C=C1)Br)NC(=O)OC(C)(C)C)=O | C22H26BrNO4S
